US08623896B2
To a solution of 5-bromo-4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzoic acid methyl ester (Example I22) (290 mg) in tetrahydrofuran (3 ml) was added a solution of potassium hydroxide (1.53 g) in methanol (3 ml) and water (3 ml). The reaction mixture was stirred at ambient temperature for 2 hours. The reaction mixture was acidified by addition of aqueous hydrochloric acid (4N). The aqueous phase was extracted with ethyl acetate (3×10 ml). The combined organic extracts were washed with water (3×10 ml) and brine, dried over sodium sulfate, and concentrated to afford 5-bromo-4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzoic acid (220 mg) as a white foam. 1H-NMR (CDCl3, 400 MHz): 8.20 (s, 1H), 7.30-7.50 (m, 4H), 4.20 (d, 1H), 3.80 (d, 1H), 2.50 (s, 3H).

reactant | 5-bromo-4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzoic acid methyl ester | 290 mg | COC(C1=C(C=C(C(=C1)Br)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)=O | C19H13BrCl2F3NO3
reactant | potassium hydroxide | 1.53 g | [OH-].[K+]
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | methanol | 3 ml | CO | CH4O
solvent | water | 3 ml | O | H2O
product | 5-bromo-4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzoic acid | 220 mg | BrC=1C(=CC(=C(C(=O)O)C1)C)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C18H11BrCl2F3NO3
